US06670379B2
Preparation of (E)-N-{(S)-2-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-1-hydroxymethyl-ethyl)-3-(5-cyano-2-methoxy-phenyl)-acrylamide
To a solution of [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone hydrochloride (1.8 g, 5.7 mmol) and diisopropylethylamine (2.0 ml, 11.4 mmol) in dichloromethane (45 ml) is added (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid (1.1 g, 5.7 mmol) followed by 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate (1.83 g, 5.7 mmol). The reaction mixture is stirred at ambient temperature for 4.5 hours, then filtered and the filtrate washed with water (50 ml), saturated sodium bicarbonate solution (50 ml), water (50 ml) and brine (50 ml). The organic phase is dried over magnesium sulphate, the solvent evaporated and the residue purified by flash silica chromatography (dichloromethane:methanol; 98:2 to 92:8 elution gradient) to afford the product, [MH]+466.1.

reactant | [1-((S)-2-amino-3-hydroxy-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone hydrochloride | 5.7 mmol, 1.8 g | Cl.N[C@@H](CN1CCC(CC1)C(=O)C1=CC=C(C=C1)F)CO
reactant | diisopropylethylamine | 11.4 mmol, 2.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-(5-cyano-2-methoxy-phenyl)-acrylic acid | 5.7 mmol, 1.1 g | C(#N)C=1C=CC(=C(C1)/C=C/C(=O)O)OC | C11H9NO3
reactant | 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate | 5.7 mmol, 1.83 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | (E)-N-{(S)-2-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-1-hydroxymethyl-ethyl)-3-(5-cyano-2-methoxy-phenyl)-acrylamide | FC1=CC=C(C(=O)C2CCN(CC2)C[C@@H](CO)NC(\C=C\C2=C(C=CC(=C2)C#N)OC)=O)C=C1 | C26H28FN3O4
